datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)CCCCCC 10=20;20,21=21"
"[NH:10]([H])C(CC)C(C)C([H])C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C([H])C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)C1=CC=CC=C1)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[O:10]([K])C(CCC)C([H])C(C)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(C)C([H])C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"CC[O:10][H].[H][O+:21]=[C:20]([O]C)[S][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O]C)[S][H] 10=20;20,21=21"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])C([H])C(CC)[O:10]1>>[O-:10]C(CC)C([H])C([H])C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]CC 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C)[S]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)C>>CCN([C:20](=[O:10])OCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])C.[O-:21][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S:10]C([H])C([H])[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CC)C>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])[H])CC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[Cl-:21] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[O]C([H])C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(CC)[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O-:10]C(C)C(O)C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O:10]C(C)C(O)C1[H] 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])C>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC1=CC=CC=C1)[H])C 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[OH:10]C(C)C(C)C([H])C(C)[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(C)C([H])C(C)C(C)[OH+:10]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC)C>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
